### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): cover of pullback from cover of left or right component

### PR DESCRIPTION
**Pull request by chrisflav**
To construct this, we also add a typeclass `Precoverage.RespectsIso` that asserts that a pre-`0`-hypercover being covering for a precoverage `J` implies being covering for every isomorphic pre-`0`-hypercover.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Hypercover/Zero.lean [hunk 1]
```diff
@@ -98,6 +98,24 @@ lemma presieve₀_pullback₁ (f : S ⟶ T) (E : PreZeroHypercover.{w} T) [∀ i
   · rintro W g ⟨-, -, ⟨i⟩⟩
     use i
 
+/-- If `{Uᵢ}` covers `X`, this is the pre-`0`-hypercover of `X ×[Z] Y` given by `{Uᵢ ×[Z] Y}`. -/
+@[simps]
+noncomputable def pullbackCoverOfLeft {X Y Z : C} (f : X ⟶ Z) (g : Y ⟶ Z) [HasPullback f g]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Hypercover/Zero.lean]: Would it make sense to make `f` and `g` appear after `E` so that we could use dot notation?
Also, it seems that this `0`-pre-hypercover is isomorphic to the `pullback₂` of `E` by the first projection from `pullback f g`. If this is correct, could you add this isomorphism? (and similarly for the right variant)
Would this isomorphism be helpful in order to obtain the `0`-hypercover variant?

Comment (chrisflav) [reply Mathlib/CategoryTheory/Sites/Hypercover/Zero.lean]: Actually, the construction of the `0`-hypercover variant already works as you suggest (via the isomorphism to `E.pullback₁ (pullback.fst f g)`, but the isomorphism is inlined. If you prefer, I can make the isomorphism a separate definition.

File: Mathlib/CategoryTheory/Sites/Hypercover/Zero.lean [hunk 2]
```diff
@@ -384,6 +410,32 @@ def interLift (f : G.Hom E) (g : G.Hom F) :
...
+noncomputable
+def pullbackCoverOfLeftIsoPullback₁ {X Y Z : C} (f : X ⟶ Z) (g : Y ⟶ Z) [HasPullback f g]
+    (E : PreZeroHypercover X) [∀ i, HasPullback (pullback.fst f g) (E.f i)]
+    [∀ i, HasPullback (E.f i) (pullback.fst f g)] :
+    E.pullbackCoverOfLeft f g ≅ pullback₁ (pullback.fst f g) E := by
+  refine PreZeroHypercover.isoMk (.refl _) ?_ ?_
+  · intro i
+    exact (pullbackRightPullbackFstIso _ _ _).symm ≪≫ pullbackSymmetry _ _
+  · intro i
+    apply pullback.hom_ext <;> simp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Hypercover/Zero.lean]: Automation works:
```suggestion
    E.pullbackCoverOfLeft f g ≅ pullback₁ (pullback.fst f g) E :=
  PreZeroHypercover.isoMk (.refl _)
    (fun _ ↦ (pullbackRightPullbackFstIso _ _ _).symm ≪≫ pullbackSymmetry _ _)
```
(And similarly for the one below.)
Could you also change the order of the parameters for the isomorphisms similarly as for the definitions of the `0`-prehypercovers?
